US05559111
e) 3(S)-Isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-acetoxy-4-[4-(3-benzyloxy-propyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one
A solution of 144 mg of 3(S)-isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-hydroxy-4-[4-(3-benzyloxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one in 1.8 ml of acetic anhydride and 0.057 ml of pyridine is stirred for 30 hours at room temperature and is then concentrated to dryness by evaporation at room temperature and under reduced pressure. The residue is partitioned between dichloromethane (3x) and water/saturated sodium chloride solution (3x). The organic phases are combined, dried over magnesium sulfate and concentrated by evaporation, and the residue is purified by means of FC (hexane/ethyl acetate=4:1), yielding the title compound: Rf (hexane/ethyl acetate=2:1)=0.38 and 0.33; HPLC Rt =21.76 and 21.82 minutes (diastereoisomeric mixture); FAB-MS M+ =653, (M+Na)+ =676.

reactant | 3(S)-isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-hydroxy-4-[4-(3-benzyloxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one | 144 mg | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C(C1=CC(=C(C=C1)OCCCOCC1=CC=CC=C1)OCCCOC)O)C(C)C)N=[N+]=[N-])=O | C34H49N3O7
reactant | acetic anhydride | 1.8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.057 ml | N1=CC=CC=C1 | C5H5N
product | 3(S)-Isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-acetoxy-4-[4-(3-benzyloxy-propyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C(C1=CC(=C(C=C1)OCCCOCC1=CC=CC=C1)OCCCOC)OC(C)=O)C(C)C)N=[N+]=[N-])=O | C36H51N3O8
